US08623889B2
Step 2: (1S,2S)-2-fluoro-N-(7-(4-methyl-6-(2,2,2-trifluoro-1,1-dihydroxyethyl)pyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
A solution of (1S,2S)-2-fluoro-N-(7-(4-methyl-6-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide (139.1 mg; 0.3317 mmol) in dichloromethane (5 mL; 78.00 mmol) was treated with Dess-Martin periodinane (172.7 mg; 0.3950 mmol) and stirred at room temperature. After 3 hours, additional Dess-Martin periodinane was added (142 mg). After an additional 5 hours, 30 mL of 10% aqueous sodium thiosulfate was added and the reaction mixture stirred for 10 minutes. The reaction mixture was washed with 2 M aqueous sodium carbonate, dried over MgSO4, filtered, and concentrated to yield 113.8 mg (79%) of the title compound. LCMS (ESI): M+H=436.2.

reactant | (1S,2S)-2-fluoro-N-(7-(4-methyl-6-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.3317 mmol, 139.1 mg | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=NC(=CC1C)C(C(F)(F)F)O | C21H17F4N3O2
reactant | dichloromethane | 78.00 mmol, 5 mL | ClCCl | CH2Cl2
reactant | Dess-Martin periodinane | 0.3950 mmol, 172.7 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | sodium thiosulfate | 30 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | (1S,2S)-2-fluoro-N-(7-(4-methyl-6-(2,2,2-trifluoro-1,1-dihydroxyethyl)pyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 113.8 mg, 79% | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=NC(=CC1C)C(C(F)(F)F)(O)O | C21H17F4N3O3
